US06340678B1
To a solution of 200 mg of (Z)-[4,4-difluoro-1-(1-phenyl-5-trifluoromethyl-1H-pyrazole-4-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetic acid in 20 ml of tetrahydrofuran were added 90 mg of 1-hydroxybenzotriazole, 130 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride and 60 mg of 1-methylpiperazine, and the mixture was stirred at room temperature for 18 hours. A saturated aqueous solution of sodium bicarbonate was added to the reaction solution, followed by extracting with ethyl acetate. The organic layer was washed with a saturated aqueous solution of NaCl and dried over magnesium sulfate, followed by evaporating off the solvent. The residue was purified by silica gel column chromatography (eluting with chloroform-methanol). The resulting residue (190 mg) was dissolved in 5 ml of chloroform, and 0.5 ml of a 4N HCl/ethyl acetate solution was added thereto, followed by stirring at room temperature. The solvent was evaporated off, and the residue was crystallized from ethanol-diethyl ether to give 190 mg of (Z)-4,4-difluoro-5-[2-(4-methylpiperazin-1-yl)-2-oxoethylidene]-1-(1-phenyl-5-trifluoromethyl-1H-pyrazole-4-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepine monohydrochloride as a colorless powder.

reactant | (Z)-[4,4-difluoro-1-(1-phenyl-5-trifluoromethyl-1H-pyrazole-4-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepin-5-ylidene]acetic acid | 200 mg | FC\1(CCN(C2=C(/C1=C/C(=O)O)C=CC=C2)C(=O)C=2C=NN(C2C(F)(F)F)C2=CC=CC=C2)F | C23H16F5N3O3
reactant | 1-hydroxybenzotriazole | 90 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride | 130 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-methylpiperazine | 60 mg | CN1CCNCC1 | C5H12N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (Z)-4,4-difluoro-5-[2-(4-methylpiperazin-1-yl)-2-oxoethylidene]-1-(1-phenyl-5-trifluoromethyl-1H-pyrazole-4-carbonyl)-2,3,4,5-tetrahydro-1H-1-benzoazepine monohydrochloride | 190 mg | Cl.FC\1(CCN(C2=C(/C1=C/C(=O)N1CCN(CC1)C)C=CC=C2)C(=O)C=2C=NN(C2C(F)(F)F)C2=CC=CC=C2)F | InChI=1S/C28H26F5N5O2.ClH/c1-35-13-15-36(16-14-35)24(39)17-22-20-9-5-6-10-23(20)37(12-11-27(22,29)30)26(40)21-18-34-38(25(21)28(31,32)33)19-7-3-2-4-8-19;/h2-10,17-18H,11-16H2,1H3;1H/b22-17-;
